US06855711B1
Synthesis of 2-acetyl-4-[4-(2-hydroxyethyl)piperazin-1-yl-methyl]phenol (5)
2-Piperazin-1-yl-ethanol (260 mg, 2 mmol) and 2-acetyl-4-chloromethyl phenol (368 mg, 2 mmol) were stirred in chloroform at room temperature. Sodium carbonate (106 mg, 1 mmol) was added and the reaction mixture was stirred overnight. The solid was filtered off and the organic layer washed with water followed by brine, dried over sodium sulfate, filtered and evaporated to obtain the crude product, which was crystallized from ethyl acetate-hexane to receive the title product as yellowish-white crystals (400 mg 72%), mp=72-75° C. C15H22N2O3 requires: N 10.06 found: N 9.70.

reactant | 2-Piperazin-1-yl-ethanol | 2 mmol, 260 mg | N1(CCNCC1)CCO | C6H14N2O
reactant | 2-acetyl-4-chloromethyl phenol | 2 mmol, 368 mg | C(C)(=O)C1=C(C=CC(=C1)CCl)O | C9H9ClO2
reactant | Sodium carbonate | 1 mmol, 106 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-acetyl-4-[4-(2-hydroxyethyl)piperazin-1-yl-methyl]phenol | C(C)(=O)C1=C(C=CC(=C1)CN1CCN(CC1)CCO)O | C15H22N2O3
